US07776875B2
Preparation of Intermediate racemic (2′S,3S,4′R)-6-chloro-4′-[5-chloro-2-(1-ethoxycarbonyl-1-methyl-ethoxy)-phenyl]-2′-(5-fluoro-2-methyl-phenyl)spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione
To a toluene solution (50 mL) of 1-(5-fluoro-2-methyl-phenyl)-3-trimethylsilyoxy-2-aza-1,3-butadiene (77 mmol) was added E/Z 6-chloro-3-[5-chloro-2-(1-ethoxycarbonyl-1-methyl-ethoxy)-benzylidene]-2-oxo-2,3-dihydro-indole-1-carboxylic acid tert-butyl ester (8 g, 15.44 mmol). Then the reaction mixture were heated at 130° C. for 2. After the solution was cooled to room temperature, methanol was added, and then the mixture was concentrated. Then a mixture of trifluoroacetic acid (10 mL) and dichloromethane (30 mL) was added. The reaction mixture was stirred at room temperature for 10 min. The solution was concentrated and the residue was purified by Prep-HPLC to give title compound as a white solid (2.7 g).

reactant | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
reactant | 1-(5-fluoro-2-methyl-phenyl)-3-trimethylsilyoxy-2-aza-1,3-butadiene | 77 mmol | FC=1C=CC(=C(C1)C=NC(=C)O[Si](C)(C)C)C | C13H18FNOSi
reactant | 6-chloro-3-[5-chloro-2-(1-ethoxycarbonyl-1-methyl-ethoxy)-benzylidene]-2-oxo-2,3-dihydro-indole-1-carboxylic acid tert-butyl ester | 15.44 mmol, 8 g | C(C)(C)(C)OC(=O)N1C(C(C2=CC=C(C=C12)Cl)=CC1=C(C=CC(=C1)Cl)OC(C)(C)C(=O)OCC)=O | C26H27Cl2NO6
solvent | methanol | CO | CH4O
product | racemic (2′S,3S,4′R)-6-chloro-4′-[5-chloro-2-(1-ethoxycarbonyl-1-methyl-ethoxy)-phenyl]-2′-(5-fluoro-2-methyl-phenyl)spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione | 2.7 g | ClC1=CC=C2C(=C1)NC(C21C(NC(CC1C1=C(C=CC(=C1)Cl)OC(C)(C)C(=O)OCC)=O)C1=C(C=CC(=C1)F)C)=O | C31H29Cl2FN2O5
